US03931172
To a suspension of 59 g. of 5-chloro-6-methyl-3-phenyl-2,1-benzisoxazole, 26.6 ml. of tert.-butanol and 740 ml. of nitromethane, is added dropwise 45.7 g. of a 50% aqueous solution of tetrafluoroboric acid. The resulting suspension is stirred at room temperature for 85 hours. The reaction mixture is diluted with approximately 10 liters of diethyl ether and the crystalline precipitate formed is isolated by filtration to yield 1-tert.-butyl-5-chloro-6-methyl-3-phenyl-2,1-benzisoxazolium tetrafluoroborate, m.p. 164°-166°C.

reactant | 5-chloro-6-methyl-3-phenyl-2,1-benzisoxazole | ClC=1C(=CC=2C(=C(ON2)C2=CC=CC=C2)C1)C | C14H10ClNO
reactant | tert.-butanol | C(C)(C)(C)O | C4H10O
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
solvent | diethyl ether | approximately 10 liters | C(C)OCC | C4H10O
product | 1-tert.-butyl-5-chloro-6-methyl-3-phenyl-2,1-benzisoxazolium tetrafluoroborate | F[B-](F)(F)F.C(C)(C)(C)[N+]=1OC(=C2C1C=C(C(=C2)Cl)C)C2=CC=CC=C2 | InChI=1S/C18H19ClNO.BF4/c1-12-10-16-14(11-15(12)19)17(13-8-6-5-7-9-13)21-20(16)18(2,3)4;2-1(3,4)5/h5-11H,1-4H3;/q+1;-1
